data/polar.json
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH2:7][O:6][C:19]([CH:2]=[C:9]([CH3:20])[N:26]=[N:15][C:3](=[O:16])[NH:18][c:21]1[cH:24][cH:13][cH:22][cH:14][cH:25]1)=[O:17].[cH:4]1[cH:8][c:10]2[c:28]([cH:12][cH:29]1)[CH:27]=[CH:5][CH:23]2[Li:11]>>[CH3:1][CH2:7][O:6][C:19]([CH:2]([C:9]([CH3:20])=[N:26][N:15]=[C:3]([O-:16])[NH:18][c:21]1[cH:24][cH:13][cH:22][cH:14][cH:25]1)[CH:23]1[CH:5]=[CH:27][c:28]2[c:10]1[cH:8][cH:4][cH:29][cH:12]2)=[O:17].[Li+:11]", "epd": [["Sigma-/Sigma+", [23, 11], [23, 2]], ["Pi-/Pi+", [2, 9], [9, 26]], ["Pi-/Pi+", [26, 15], [15, 3]], ["Pi-/LP+", [3, 16], [16]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH3:10][O:26][c:17]1[cH:24][cH:33][c:32](-[c:28]2[cH:16][cH:31][c:15]3[cH:12][cH:18][cH:11][cH:37][c:21]3[o+:20]2)[cH:34][cH:25]1.[cH:1]1[c:5]([CH:3]=[C:27]2[CH:35]=[CH:13][CH:14]=[CH:36]2)[cH:2][c:9]2[c:4]3[c:8]1[CH2:29][CH2:22][CH2:7][N:19]3[CH2:6][CH2:23][CH2:30]2>>[cH:1]1[c:5](=[CH:3][C:27]2=[CH:36][CH:14]=[CH:13][CH:35]2[CH:31]2[c:15]3[cH:12][cH:18][cH:11][cH:37][c:21]3[O:20][C:28]([c:32]3[cH:33][cH:24][c:17]([O:26][CH3:10])[cH:25][cH:34]3)=[CH:16]2)[cH:2][c:9]2[c:4]3[c:8]1[CH2:29][CH2:22][CH2:7][N+:19]=3[CH2:6][CH2:23][CH2:30]2", "epd": [["LP-/Pi+", [19], [4, 19]], ["Pi-/Pi+", [8, 4], [1, 8]], ["Pi-/Pi+", [5, 1], [3, 5]], ["Pi-/Pi+", [27, 3], [36, 27]], ["Pi-/Pi+", [14, 36], [13, 14]], ["Pi-/Sigma+", [35, 13], [35, 31]], ["Pi-/Pi+", [31, 16], [16, 28]], ["Pi-/LP+", [28, 20], [20]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:7]1[o:23][n:13][c:8]2[c:10]3[n+:5]([O-:14])[o:2][n:16][c:12]3[c:15]([N+:3]([O-:20])=[O:24])[cH:9][c:25]12.[O-:4][c:6]1[cH:21][cH:17][c:19]([CH3:11])[cH:18][cH:22]1>>[O-:1][n+:7]1[o:23][n:13][c:8]2[c:25]1[CH:9]([O:4][c:6]1[cH:21][cH:17][c:19]([CH3:11])[cH:18][cH:22]1)[C:15](=[N+:3]([O-:20])[O-:24])[c:12]1[c:10]-2[n+:5]([O-:14])[o:2][n:16]1", "epd": [["LP-/Sigma+", [4], [4, 9]], ["Pi-/Pi+", [9, 15], [15, 3]], ["Pi-/LP+", [3, 24], [24]]]}
{"reaction_name": "Halonium-ion opening", "rsmi": "[CH2:1]1[CH2:2][Cl+:4]1.[OH-:3]>>[CH2:1]([CH2:2][Cl:4])[OH:3]", "epd": [["LP-/Sigma+", [3], [1, 3]], ["Sigma-/LP+", [1, 4], [4]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:5][C:21]([F:6])([F:7])[F:8])[S:2](=[O:34])(=[O:35])[c:9]2[c:37]([cH:36][cH:10][cH:39][cH:41]2)[C:40]1=[O:23].[N:3]1([c:11]2[c:30]([CH3:13])[cH:26][c:19]([CH3:17])[cH:29][c:33]2[CH3:16])[CH:25]=[CH:24][N:4]([c:12]2[c:31]([CH3:14])[cH:27][c:20]([CH3:18])[cH:28][c:32]2[CH3:15])[C:38]1=[CH2:22]>>[N:1]1=[C:40]([O-:23])[c:37]2[c:9]([cH:41][cH:39][cH:10][cH:36]2)[S:2]1(=[O:34])=[O:35].[n+:3]1(-[c:11]2[c:30]([CH3:13])[cH:26][c:19]([CH3:17])[cH:29][c:33]2[CH3:16])[cH:25][cH:24][n:4](-[c:12]2[c:31]([CH3:14])[cH:27][c:20]([CH3:18])[cH:28][c:32]2[CH3:15])[c:38]1[CH2:22][S:5][C:21]([F:6])([F:7])[F:8]", "epd": [["LP-/Pi+", [3], [38, 3]], ["Pi-/Sigma+", [22, 38], [22, 5]], ["Sigma-/Pi+", [5, 1], [1, 40]], ["Pi-/LP+", [40, 23], [23]]]}
{"reaction_name": "Benzylidene malonate dehydration", "rsmi": "[O:1]([C:3]([C:9]([C:4]([O:2][CH3:13])=[O:17])([H:18])[H:19])=[O:16])[CH3:12].[O:5]=[CH:7][c:6]1[cH:14][cH:10][cH:8][cH:11][cH:15]1>>[O:1]([C:3]([C:9]([C:4]([O:2][CH3:13])=[O:17])=[CH:7][c:6]1[cH:14][cH:10][cH:8][cH:11][cH:15]1)=[O:16])[CH3:12].[O:5]([H:18])[H:19]", "epd": [["Sigma-/LP+", [5, 7], [5]], ["Pi-/Sigma+", [5, 7], [5, 18]], ["Sigma-/LP+", [9, 18], [9]], ["LP-/Sigma+", [9], [7, 9]], ["Sigma-/Pi+", [9, 19], [7, 9]], ["LP-/Sigma+", [5], [5, 19]]]}
{"reaction_name": "Silyl migration in carbohydrates", "rsmi": "[CH3:1][Si:7]([CH3:2])([CH3:3])[O:5][CH2:8][CH2:6][O-:4]>>[CH3:1][Si:7]([CH3:2])([CH3:3])[O:4][CH2:6][CH2:8][O-:5]", "epd": [["LP-/Sigma+", [4], [4, 7]], ["Sigma-/LP+", [5, 7], [5]]]}
{"reaction_name": "Iminium capture by nucleophile", "rsmi": "[C-:4]#[N:5].[CH:1]([CH3:3])=[NH+:6][CH3:2]>>[CH:1]([CH3:3])([C:4]#[N:5])[NH:6][CH3:2]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Pi-/LP+", [1, 6], [6]]]}
{"reaction_name": "Phosphonium-salt activation", "rsmi": "[Br:4][CH2:5][CH3:6].[CH3:1][P:7]([CH3:2])[CH3:3]>>[Br-:4].[CH3:1][P+:7]([CH3:2])([CH3:3])[CH2:5][CH3:6]", "epd": [["LP-/Sigma+", [7], [5, 7]], ["Sigma-/LP+", [4, 5], [4]]]}
